Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Barbiturates / Amoxicillin / 
Keflex / ___ & Related
 
Attending: ___.
 
Chief Complaint:
Headache
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with a history of 
chronic neck pain ascribed to cervical spondylosis post 
laminectomy/fusion ___, hypothyroidism, Sjo___ syndrome and 
Raynaud phenomenon, recently sought emergency care for a 
constellation of tinnitus, neck, and shoulder pains, stable MR 
of cervical spine then, returns two days later with a severe 
headache. She was planned for discharge but became hypertensive. 
___ first noted a "whooshing sound" in her left ear in early 
___ in conjunction with sinusitis. She was treated with 
Augmentin, then referred to ENT, where she had an unremarkable 
CT mandible/maxilla. A burst of methylprednisolone was trialed 
without meaningful improvement. The tinnitus, in fact, 
intensified a few days ago, and she had concurrent neck and 
ipsilateral shoulder pain, so sought emergency care on ___. 
She is receiving trigger point injections so an MR with contrast 
of her cervical spine was performed to exclude an abscess, which 
was unremarkable; her cervical sponylosis was stable. Her pain 
lessened with ketorolac so was discharged thereafter. Then, this 
morning, she awoke with a global headache, ___ in severity 
that gradually intensified, prompting her to seek care again. 
She does not appreciate a temporal relationship to position or 
exertion. She had photopsia when her eyes were closed and 
phonophobia--though thinks ___ hyperacusis is 
chronic--but denied photophobia. She does have migraines but 
notes this headache is distinct. She was never nauseated. Here, 
her NIHSS was 2 for LUE drift and diminished sensation in her 
LLE. CT head without contrast followed by CTA head and neck were 
all reassuring. Neurology recommended a ___ MR of her 
brain. She was normotensive at the gerontology office and on 
arrival (141/78), but later became hypertensive to 207/110 -> 
171/90, so her discharge was postponed.   

REVIEW OF SYSTEMS: Tonight, she reports that her headache 
dramatically improved with Tylenol. Her tinnitus has not yet 
resolved but was sleeping comfortably after placing the speaker 
hear her ear to drown it out. Constitutionally, she was well 
enough to work as an ___ as recently as this past 
weekend. She has not documented a fever at home and denies 
rigors, night sweats, weight loss, or anorexia, though has an 
abnormal lingual sensation and dysgeusia. She denies vision loss 
or diplopia but did have decreased visual acuity when fixating 
on distant objects. The television appears normal this evening. 
She does not have lightheadedness or illusory movements. She 
denies jaw claudication. Her neck pain is stable, as is her left 
shoulder. She reiterates she has a diminished sensation over her 
left deltoid and lateral aspect of her left lower leg inferior 
to the knee. She is having total body myoclonic jerks. Her left 
lower extremity feels clumsy and inverted. Her toes feel "curled 
up." She is ambulating with a cane, which is atypical for her. 
She has no cardiopulmonary, gastrointestinal, or lower urinary 
tract symptoms. She takes diltiazem during cold months for 
Raynaud, but did not take it this morning. She expects she will 
begin a taper now that the weather is more favorable. 
 
Past Medical History:
-Chronic neck pain ascribed to cervical spondylosis post 
laminectomy/fusion ___ in ___ with revisions in ___ and ___.
-Raynaud phenomenon with ___.
-Hypothyroidism.
-Celiac disease.
-Asthma.
-Lumbar stenosis. 
-Uterine fibroids.
-Endometriosis.
-Cholecystectomy.
-Appendectomy.
 
Social History:
___
Family History:
-Maternal history of hydrocephalus.
-Paternal history of diabetes.
-Fraternal history of fatal myocardial infarction.
-Paternal grandfather with colon cancer in his ___.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================  
VITALS: T 98.7, HR 78, BP 177/101 -> 133/69, RR 18, 97% RA
GENERAL: Well appearing female in no apparent physical distress. 
She does, however, seem anxious.
HEENT: Anicteric sclerae. Oropharynx clear.
NECK: No thyromegaly or nodule.
CV: Regular rate and rhythm. S1/S2. No murmur.
PULM: Comfortable. Lungs clear.
ABDOMEN: Soft. ___.
EXTREMITIES: Warm without edema. Pulses palpable and symmetric.
NEURO: Awake, alert, oriented. CN ___ intact. ___ strength in 
upper extremities and RLE but 4+/5- that gives away in LLE. Her 
LLE seems spastic too. She has diminished sensation over her 
left deltoid and left lateral aspect of her LLE inferior to her 
knee. 
SKIN: Within normal limits.

DISCHARGE PHYSICAL EXAM:
========================  
VITALS: 24 HR Data (last updated ___ @ 2342) 
Temp: 98.6 (Tm 98.6), BP: 98/59 (___), HR: 67 (___),
RR: 18, O2 sat: 98% (___), O2 delivery: Ra 

GENERAL: anxious appearing woman otherwise in NAD
HEENT: Anicteric sclerae. Oropharynx clear.
NECK: No thyromegaly or nodule.
CV: Regular rate and rhythm. S1/S2. No murmur.
PULM: Comfortable. Lungs clear.
ABDOMEN: Soft. ___.
EXTREMITIES: Warm without edema. Pulses palpable and symmetric.
NEURO: Awake, alert, oriented. CN ___ intact. ___ strength in
upper extremities and RLE, no giveaway today.
SKIN: Within normal limits.

 
Pertinent Results:
ADMISSION LABS:
===============
___ 11:59AM BLOOD ___ 
___ Plt ___
___ 11:59AM BLOOD ___ 
___ Im ___ 
___
___ 01:50PM BLOOD ___ 
___
___ 01:50PM BLOOD ___
___ 01:50PM BLOOD ___
___ 01:50PM BLOOD ___
___ 01:50PM BLOOD ___ 
___
___ 02:00PM URINE ___ 
___
___ 02:00PM URINE ___ 
___

PERTINENT LABS:
===============
___ 08:07AM BLOOD SED ___      
___ 01:50PM BLOOD ___
___ 08:07AM BLOOD ___
___ 08:07AM BLOOD ___
___ 08:07AM BLOOD ___
___ 08:07AM BLOOD ___
___ 06:35AM BLOOD ___

MICROBIOLOGY:
===============
___ UCx: Contaminated

DISCHARGE LABS:
===============
___ 06:35AM BLOOD ___ 
___ Plt ___
___ 06:35AM BLOOD ___ ___
___ 06:35AM BLOOD ___ 
___

IMAGING:
===============
___ ___ H/N
FINDINGS: 
- CT HEAD WITHOUT CONTRAST:
-- There is no evidence of infarction,intracranial 
hemorrhage,edema,ormass.  The ventricles and sulci are normal 
for age in size and configuration.
-- The visualized portion of the paranasal sinuses, mastoid air 
cells,and middle ear cavities are clear.  There are bilateral 
lens replacements.
- CTA HEAD:
-- There is mild calcification of the bilateral carotid siphons. 
There is irregularity and mild narrowing of the supraclinoid 
segment of the right internal carotid artery (4:241), likely 
related to atherosclerotic disease.  The right A1 segment of the 
ACA is hypoplastic (4:246).  The vessels of the circle of ___ 
and their principal intracranial branches appear otherwise 
normal without stenosis, occlusion, or aneurysm formation.  The 
dural venous sinuses are patent.
- CTA NECK:
-- The carotidandvertebral arteries and their major branches 
appear normal with no evidence of stenosis or occlusion. There 
is no evidence of internal carotid stenosis by NASCET criteria.
- OTHER:
-- The visualized portion of the lungs demonstrate scattered 
___ and ___ opacities, which are nonspecific, 
may be infectious or inflammatory.  The thyroid is within normal 
limits.  The patient is status post posterior cervical spine 
fixation with rods locked with screws from C3 C6 levels.
IMPRESSION: 
1. No acute intracranial abnormality.
2. Irregularity and mild narrowing of the supraclinoid segment 
of the right internal carotid artery, likely related to 
atherosclerotic disease.  No significant stenosis or occlusion 
of the head and neck vessels.
3. Scattered ___ and ___ opacities in the lungs 
bilaterally are nonspecific, and may be infectious or 
inflammatory.

___ CXR PA/Lateral
FINDINGS: 
- The lungs are clear.  There is no consolidation, effusion, or 
edema. Cardiomediastinal silhouette is within normal limits.  No 
acute osseous abnormalities.  Posterior cervical fixation 
hardware is only partially visualized.  Surgical clips in the 
upper abdomen suggest prior cholecystectomy.
IMPRESSION: 
- No acute cardiopulmonary process.

___ MRI Brain
FINDINGS: 
- Incidental note is made of a left parafalcine 6 mm ___ 
lesion, most compatible with a small meningioma (series 12, 
image 1 45).
- There is no evidence of hemorrhage, edema, other masses, mass 
effect, midline shift or infarction.   The ventricles and sulci 
are prominent, suggestive of volume loss.  There are mild 
periventricular FLAIR hyperintensities, which are nonspecific 
but can be seen with small vessel ischemic changes.  There is no 
suspicious abnormal enhancement after contrast administration.  
There is focal narrowing of the supraclinoid segment of the 
right internal carotid artery.  The major intracranial vessels 
are otherwise normal in appearance.
- There is mild mucosal thickening of the ethmoid air cells.  
The orbits are unremarkable.  The mastoid air cells are clear.  
No suspicious osseous lesions.
IMPRESSION:
1. No acute infarct or intracranial hemorrhage.  No suspicious 
parenchymal FLAIR signal abnormality.
2. Incidental note is made of a 6 mm left parafalcine 
meningioma.  Otherwise, no abnormal enhancement.
3. Additional findings as described above.

 
Brief Hospital Course:
___ with PMH chronic neck pain ___ cervical spondylosis s/p 
laminectomy/fusion ___, Raynauds with ___, hypothyroidism, L 
hyperacusis, recent ED visit for tinnitus, neck/shoulder pain 
with stable MR ___, who ___ with severe headache and 
worsening of previous symptoms. ___ head/neck and MRI 
reassuring. Course c/b HTN with max SBP to 200s, for which she 
was admitted.

ACTIVE ISSUES:
--------------
#HYPERTENSIVE URGENCY
Pt without PMH of HTN, however takes diltiazem at home for 
Raynauds. While presenting to ED for worsened symptoms as below, 
pt noted to have SBP to 200s, with initial c/f HTNsive 
emergency. However, SBPs did not appear to correspond in terms 
of chronicity with symptoms. Likely in setting of not taking 
diltiazem that day and component of anxiety surrounding ED 
environment/stimulation especially given hyperacusis. Multiple 
episodes of similar symptoms during admission, not attributable 
to specific neurologic localization. Unclear baseline BP at 
home, though at clinic wnl. Recent NSAID usage (ibuprofen 600mg 
BID) could be exacerbating issue. Uptitrated home diltiazem to 
180mg daily with improvement, could consider switch for more 
___ CCB such as amlodipine as outpatient.

#HEADACHE, resolved
#TINNITUS, worsened from previous
#L HYPERACUSIS, worsened from previous
#SHOULDER/NECK PAIN, DIZZINESS, ANXIETY
#CERVICAL SPONDYLOSIS s/p ___ LAMINECTOMY
#POST HERPETIC NEURALGIA
Constellation of symptoms, some of which are exacerbations of 
chronic issues, some of which are new. As above, c/f HTNsive 
emergency initially but had unrelenting sx despite adequate BP 
control. Primarily, pt is concerned about her worsened 
hyperacusis and tinnitus (described as a constant "zzz" sound). 
This worsened after recent bout of sinus infection. s/p 
outpatient prednisone course without improvement. MR head, neck 
without explanation of symptoms, though not dedicated to 
auditory canal protocol, which should be performed as an 
outpatient. Neurology evaluated and felt primarily functional 
cause of symptoms, should follow up in clinic in 2 months. Also 
recommended nortriptyline, but given pt's advanced age and 
concern for anticholinergic side effects, deferred. Instead 
started duloxetine 20mg daily. ENT recommended outpatient workup 
with audiology exam, appt provided. C/f autoimmune diathesis 
given known Raynauds, but CRP normal (ESR pending at discharge). 
In terms of other symptoms - presented with headache, resolved. 
Shoulder and neck pain c/w prior from known cervical 
spondylosis, stable in severity from previous. Nausea, 
dizziness, tinnitus possibly related to ___ infection 
syndrome; tinnitus possibly worsened by NSAID usage. Nausea was 
treated with Zofran PRN. Pain control was with tylenol, 
lidocaine patch, and home tizanidine PRNs. Felt that there may 
be anxiety component to symptomology as well.

#HYPOTHYROIDISM
TSH 5.2 on admission, but due to pt's sensation of being "hyper" 
and noted congruent appearance on exam, rechecked T3/T4 as well. 
Per pt's partner, pt is roughly at baseline and intermittently 
becomes more animated. As transitional issue, should recheck TSH 
in ___ weeks to assess if home levothyroxine 112mcg should be up 
or downtitrated.

CHRONIC/STABLE ISSUES: 
#CELIAC DISEASE
Gluten free diet provided.

TRANSITIONAL ISSUES:
--------------------
FOLLOW UPS
- PCP
- ___
- ENT

ISSUES
[ ] Uptitrated diltiazem to 180mg ER daily
[ ] Consider switch of diltiazem for ___ CCB 
such as amlodipine
[ ] Pt educated on not using NSAIDs, continue to reinforce
[ ] Repeat MRI brain with dedicated auditory canal protocol per 
Neuro rec
[ ] Audiology exam
[ ] PCP to follow T3/T4 (still pending at discharge)
[ ] Recheck TSH in ___ weeks

INCIDENTAL IMAGING FINDINGS
[ ] Small left parafalcine 6 mm ___ lesion (6mm), most 
compatible with a small meningioma
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 112 mcg PO DAILY 
2. Diltiazem ___ 120 mg PO DAILY 
3. Tizanidine ___ mg PO QHS:PRN sleep/spasm 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
RX *acetaminophen 500 mg 1 tablet(s) by mouth three times a day 
Disp #*90 Tablet Refills:*0 
2.  DULoxetine ___ 20 mg PO DAILY 
RX *duloxetine 20 mg 1 capsule(s) by mouth once a day Disp #*30 
Capsule Refills:*0 
3.  Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine 5 % 1 PATCH QAM Disp #*30 Patch Refills:*0 
4.  Ondansetron ODT 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 

RX *ondansetron 4 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*21 Tablet Refills:*0 
5.  Diltiazem ___ 180 mg PO DAILY 
RX *diltiazem HCl 180 mg 1 capsule(s) by mouth once a day Disp 
#*30 Capsule Refills:*0 
6.  Levothyroxine Sodium 112 mcg PO DAILY  
7.  Tizanidine ___ mg PO QHS:PRN sleep/spasm  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
#Hypertensive Urgency

SECONDARY
#Left Hyperacusis
#Tinnitus, Dizziness, Nausea
#Cervical Spondylosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a privilege taking care of you at ___.

WHY WAS I IN THE HOSPITAL?
- Your blood pressure was very elevated.

WHAT HAPPENED IN THE HOSPITAL?
- Your Raynaud's medication (diltiazem) was increased to better 
control your blood pressure; you should continue to take this 
instead of tapering it off
- You received CT and MRI imaging of the head and neck, which 
was reassuringly negative
- You were evaluated by our Neurology team, who recommended 
outpatient follow up
- Our ENT colleagues also suggested outpatient follow up
- You were started on a new medication (duloxetine) to help with 
your neck pain, tinnitus, and anxiety

WHAT SHOULD I DO AFTER THE HOSPITAL?
- Please take your medications as directed
- Please try to minimize your use of ibuprofen, naproxen, or 
other ___ pain medications
- Please attend your follow ups as below

WE WISH YOU THE BEST!
Your ___ Care Team

 
Followup Instructions:
___